US07846960B2
6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-3-nitro-pyridine
To an ambient temperature solution of [4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-methanol (2.0 g, 6.66 mmol) in degassed toluene (22 mL) is added 6-Chloro-2-methyl-3-nitro-pyridine (1.15 g, 6.66 mmol), cesium carbonate (3.25 g, 9.99 mmol), 2-(Di-t-butylphosphino)-1,1′-binapthyl (332 mg, 0.833 mmol, 12.5 mol %), and palladium (II) acetate (150 mg, 0.666 mmol, 10 mol %). The reaction mixture is heated to 70° C. overnight. The reaction mixture is filtered through a pad of Celite®, is concentrated under reduced pressure, and is chromatographed (0% to 20% EtOAc/Hex) to yield the title compound (2.73 g, 94%). 1H NMR (400 MHz, CDCl3) δ 8.22 (d, 1H, J=8.8 Hz), 7.64 (s, 1H), 7.52 (dd, 1H, J=7.8, 1.7 Hz), 7.49-7.44 (m, 1H), 7.41-7.34 (m, 2H), 6.51 (d, 1H, J=9.2 Hz), 5.35 (s, 2H), 3.05 (sept, 1H, J=7.0 Hz), 2.72 (s, 3H), 1.29 (d, 6H, J=7.0 Hz).

reactant | [4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-yl]-methanol | 6.66 mmol, 2.0 g | C(C)(C)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)CO | C14H15F3N2O2
reactant | 6-Chloro-2-methyl-3-nitro-pyridine | 6.66 mmol, 1.15 g | ClC1=CC=C(C(=N1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | cesium carbonate | 9.99 mmol, 3.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(Di-t-butylphosphino)-1,1′-binapthyl | 0.833 mmol, 332 mg | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.666 mmol, 150 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-3-nitro-pyridine | 2.73 g, 94% | C(C)(C)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC=C(C(=N1)C)[N+](=O)[O-] | C20H19F3N4O4
